US07476666B2
Step 2: Dimethyl 1-(2-azidoethyl)-4-benzyloxy-1H-pyrazole-3,5-dicarboxylate
To a solution of dimethyl 4-benzyloxy-1-(2-bromoethyl)-1H-pyrazole-3,5-dicarboxylate (1.0 g, 2.52 mmol) in DMF was added sodium azide. The reaction mixture was stirred at 40° C. overnight and quenched with water (100 mL). The mixture was extracted with EtOAc four times, and the organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel using 0-30% EtOAc/hexanes gradient elution. Collection and concentration of the appropriate fractions afforded the title compound as a white solid. ES MS (M+1)=360.

reactant | dimethyl 4-benzyloxy-1-(2-bromoethyl)-1H-pyrazole-3,5-dicarboxylate | 2.52 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)CCBr)C(=O)OC | C16H17BrN2O5
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Dimethyl 1-(2-azidoethyl)-4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | N(=[N+]=[N-])CCN1N=C(C(=C1C(=O)OC)OCC1=CC=CC=C1)C(=O)OC | C16H17N5O5
